US08455477B2
To a solution of 4-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]ethynyl}pyridin-2-amine (24 mg, 0.070 mmol) in pyridine (1400 μl), was added 3-methoxybenzenesulfonyl chloride (29 μl, 0.203 mmol). The reaction mixture was stirred for 72 hours at room temperature. The precipitated solid was filtered and the solid washed with 10 mL of dichloromethane. The solid was dried in vacuo to afford 3-methoxy-N-(4-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]ethynyl}pyridin-2-yl)benzenesulfonamide an off-white solid. 1H NMR (500 MHz, DMSO-d6) δ 8.75 (s, 1H); 8.34 (s, 1H); 8.26 (s, 1H); 8.06 (s, 1H); 7.99 (bs, 2H); 7.49-7.42 (m, 2H); 7.38 (s, 1H); 7.16-7.15 (m, 2H); 7.11 (s, 1H); 6.85 (bs, 1H); 4.07 (s, 3H); 3.87 (s, 3H); 3.79 (s, 3H). LRMS (ESI) calculated for C26H22N6O3S [M+H]+, 515.1; found 515.1.

reactant | 4-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]ethynyl}pyridin-2-amine | 0.070 mmol, 24 mg | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C#CC2=CC(=NC=C2)N | C19H16N6O
reactant | 3-methoxybenzenesulfonyl chloride | 0.203 mmol, 29 μl | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
solvent | pyridine | 1400 μl | N1=CC=CC=C1 | C5H5N
product | 3-methoxy-N-(4-{[4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-yl]ethynyl}pyridin-2-yl)benzenesulfonamide | COC=1C=C(C=CC1)S(=O)(=O)NC1=NC=CC(=C1)C#CC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C26H22N6O4S
